US04456772
55.7 g (0.3 mol) of 2-chloro-5-nitrobenzaldehyde and 34.8 g (0.6 mol) of potassium fluoride are suspended in 250 ml of dimethylformamide and the mixture is stirred for 0.5 hours at 160° C. The mixture is then introduced into 600 ml of water and the aldehyde which has separated out is extracted with methylene chloride. The extract is separated off, dried and evaporated down. 48.9 g of 2-fluoro-5-nitrobenzaldehyde with a content of 94.8% are obtained.

reactant | 2-chloro-5-nitrobenzaldehyde | 0.3 mol, 55.7 g | ClC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO3
reactant | potassium fluoride | 0.6 mol, 34.8 g | [F-].[K+]
reactant | water | 600 ml | O | H2O
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 2-fluoro-5-nitrobenzaldehyde | 48.9 g, Yield: 91% | FC1=C(C=O)C=C(C=C1)[N+](=O)[O-] | C7H4FNO3
